US07767691B2
4-[Hydroxy(diphenyl)methyl]-1-{2-[(phenylmethyl)oxy]ethyl}-1-azoniabicyclo[2.2.1]heptane bromide
To a solution of 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (50 mg, 0.18 mmol) in 2 CH3CN/3 CHCl3 (4 mL) was added 2-bromoethyl phenylmethyl ether (0.04 mL, 0.25 mmol). The solution was heated at 60° C. for 16 h, cooled down to room temperature and the solvents evaporated under vacuum. The residue was taken up in 2.5 mL of DMSO and purified by preparatory HPLC (without TFA) to give the title compound (32 mg, 36%). EI-MS m/z 414 (M+) Rt (1.92 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.18 mmol, 50 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 2-bromoethyl phenylmethyl ether | 0.25 mmol, 0.04 mL | C1(=CC=CC=C1)COCCBr | C9H11BrO
solvent | CH3CN | 4 mL | CC#N | C2H3N
product | 4-[Hydroxy(diphenyl)methyl]-1-{2-[(phenylmethyl)oxy]ethyl}-1-azoniabicyclo[2.2.1]heptane bromide | 32 mg, 36% | [Br-].OC(C12CC[N+](CC1)(C2)CCOCC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C28H32NO2.BrH/c30-28(25-12-6-2-7-13-25,26-14-8-3-9-15-26)27-16-18-29(23-27,19-17-27)20-21-31-22-24-10-4-1-5-11-24;/h1-15,30H,16-23H2;1H/q+1;/p-1
